US08735444B2
5-Amino-2-fluoro-N-(trifluoroacetyl)aniline (32-NH2—H):
A Schlenk-flask (250 mL) was evacuated and flushed with argon two times. Then 10% Pd/C (0.74 g, VWR International, oxidized form) and EtOAc (30 mL) were placed into it, and the flask was closed with a septum. The mixture was flushed with hydrogen and stirred vigorously to activate the catalyst. Then 32-NO2—H (5.14 g, 20.4 mmol) in 20 mL of EtOAc was added by syringe through a septum. (Addition was accompanied by the exothermic reaction). The solution was hydrogenated for 4 h at 20° C. Then hydrogen was replaced by argon and the mixture was filtered through Celite®. The filter-cake was washed with EtOAc (2×50 mL) and the solvent was evaporated in vacuo to yield the title compound as a brownish solid with m.p. 116-118° C.; yield—4.35 g (96%). 1H NMR (CDCl3, 300 MHz, ppm): δ=3.30 (br. s, 3H, NH2), 6.44 (ddd, 3JHH=8.8, 4JHF=4.1, 3JHH=2.8, 1H, H-4), 6.92 (dd, 3JHH=8.9, 3JHF=10.4, 1H, H-3), 7.63 (dd, 4JHH=2.8, 4JHF=6.4, 1H, H-6), 8.01 (s, 1H, NH); 13C NMR (75 MHz, CDCl3): δ=107.8 (s, C-4/6), 112.2 (d, 3JCF=7.1, C-6/4), 115.4 (q, 1JCF=289, CF3), 115.5 (d, 2JCF=28, C-3), 124.0 (d, 2JCF=11.2, C-1), 143.3 (s, C-5), 144.6 (d, 1JCF=236, C-2), 154.5 (q, 2JCF=37.5, CO); ESI-MS, negative mode: m/z (rel. int., %)=221 (100) [M−H]−; elemental analysis (%): C, 43.16; H, 2.85; N, 12.86 (found); C, 43.25; H, 2.72; N, 12.61 (calc.)

reactant | 2-Fluoro-5-nitro-N-trifluoroacetylaniline | 20.4 mmol, 5.14 g | FC1=C(NC(C(F)(F)F)=O)C=C(C=C1)[N+](=O)[O-] | C8H4F4N2O3
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-Amino-2-fluoro-N-(trifluoroacetyl)aniline | NC=1C=CC(=C(NC(C(F)(F)F)=O)C1)F | C8H6F4N2O
